US07994185B2
2,5-Difluoro-N-{2-fluoro-5-[2-(1-methylethyl)-5-(2-{[1-(methylsulfonyl)-4-piperidinyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide
Following a procedure analogous to the procedure described in Example 1 using N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide (0.30 g, 0.57 mmol), 1-(methylsulfonyl)-4-piperidinamine (0.3 g, 1.7 mmol) and THF (1 mL) the title compound was obtained (0.32 g, 0.48 mmol, 84% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.82 (s, 1H), 8.13 (d, J=5.0 Hz, 1H), 7.71-7.44 (m, 3H), 7.45-7.32 (m, 3H), 7.29 (t, J=9.2 Hz, 1H), 6.30 (m, 1H), 3.50 (m, 2H), 3.30-3.24 (m, 1H), 2.86 (s, 3H), 2.83-2.64 (m, 2H), 1.90 (m, 2H), 1.67-1.44 (m, 2H), 1.36 (d, J=6.8 Hz, 6H). MS (ESI): 667 [M+H]+.

reactant | N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 0.57 mmol, 0.30 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C22H16ClF3N4O2S2
reactant | 1-(methylsulfonyl)-4-piperidinamine | 1.7 mmol, 0.3 g | CS(=O)(=O)N1CCC(CC1)N | C6H14N2O2S
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2,5-Difluoro-N-{2-fluoro-5-[2-(1-methylethyl)-5-(2-{[1-(methylsulfonyl)-4-piperidinyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide | 84% yield | FC1=C(C=C(C=C1)F)S(=O)(=O)NC1=C(C=CC(=C1)C=1N=C(SC1C1=NC(=NC=C1)NC1CCN(CC1)S(=O)(=O)C)C(C)C)F | C28H29F3N6O4S3
